US06124453
A solution of 550 mg (0.50 mmol) of sanglifehrin C in 5 mL of 4:1 THF-water is treated with 0.5 mL of 2N aqueous sulfuric acid and stirred for 1.5 h. The reaction is quenched with saturated aqueous sodium bicarbonate and the resulting mixture is extracted twice with ethyl acetate. The organic solution is washed with saturated aqueous sodium bicarbonate solution and twice with saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (90:10 methyl-tert.-butyl ether:methanol) to yield sanglifehrin A as a white amorphous powder.

reactant | sanglifehrin C | 0.50 mmol, 550 mg | CC[C@H]1C[C@@H]([C@@]2([C@H]([C@H]([C@H]([C@@H](O2)C[C@@H]([C@@H](C)CC/C=C/C=C(\C)/[C@@H]3C/C=C\C=C/[C@@H]([C@@H]([C@@H]4[C@@H](CC[C@@](O4)(C)OC)C(=O)N[C@H](C(=O)N[C@H](C(=O)N5CCC[C@@H](N5)C(=O)O3)CC6=CC(=CC=C6)O)C(C)C)C)O)O)C)O)C)NC1=O)C | C61H93N5O13
reactant | sulfuric acid | 2N, 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF water | 5 mL | C1CCOC1.O
product | sanglifehrin A | CC[C@H]1C[C@@H]([C@@]2([C@H]([C@H]([C@H]([C@@H](O2)C[C@@H]([C@@H](C)CC/C=C/C=C(\C)/[C@@H]3C/C=C/C=C/[C@@H]([C@@H]([C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N4CCC[C@H](N4)C(=O)O3)CC=5C=CC=C(C5)O)C(C)C)CCC(=O)C)O)C)O)O)C)O)C)NC1=O)C | C60H91N5O13
